US07018786B2
Synthesis of 1,6-dimethyluracil
14.2 g (92 mmol) 2,4-dimethoxy-6-methylpyrimidine was dissolved in 210 mL iodomethane and the reaction allowed to continue for 2 days at room temperature. After 2 days, the excess of iodomethane was evaporated off under reduced pressure, the residue treated with 675 mL 1 N HCl and the resulting mixture refluxed for one and a half hours. After cooling to room temperature and neutralization with a concentrated sodium hydroxide solution, the water was removed under reduced pressure and the residue extracted with chloroform using a Soxhlet extractor. The chloroform was evaporated under reduced pressure and the crude compound recrystallized first from ethanol and then from water yielding 4.03 g (31%) of 1,6-dimethyluracil (m.p. 221–223° C.).

reactant | 2,4-dimethoxy-6-methylpyrimidine | 92 mmol, 14.2 g | COC1=NC(=CC(=N1)OC)C | C7H10N2O2
reactant | iodomethane | 210 mL | IC | CH3I
product | 1,6-dimethyluracil | CN1C(=O)NC(=O)C=C1C | C6H8N2O2
